US08877774B2
Step 2. (3-((5-(1,3-dioxolan-2-yl)pentyl)oxy)phenyl)(3-fluorophenyl)methanol
The title compound was prepared as described in Example 10 Step 2 with 3-fluorophenylmagnesium bromide and 3-((5-(1,3-dioxolan-2-yl)pentyl)oxy)benzaldehyde replacing 2-thienylmagnesium bromide and 3-(8-(1,3-dioxolan-2-yl)octyloxy)benzaldehyde respectively.

reactant | 3-fluorophenylmagnesium bromide | FC=1C=C(C=CC1)[Mg]Br
reactant | 3-((5-(1,3-dioxolan-2-yl)pentyl)oxy)benzaldehyde | O1C(OCC1)CCCCCOC=1C=C(C=O)C=CC1 | C15H20O4
reactant | 3-(8-(1,3-dioxolan-2-yl)octyloxy)benzaldehyde | O1C(OCC1)CCCCCCCCOC=1C=C(C=O)C=CC1 | C18H26O4
product | (3-((5-(1,3-dioxolan-2-yl)pentyl)oxy)phenyl)(3-fluorophenyl)methanol | O1C(OCC1)CCCCCOC=1C=C(C=CC1)C(O)C1=CC(=CC=C1)F | C21H25FO4
